US06329392B1
Synthesis of 4-(1-(2-allyloxy-ethyl)-1 H-benzoimidazole-2-carbonyl)-piperidine
Prepare by the method of Preparation 4 using allyl hydroxyethyl ether and 1-(t-butoxycarbonyl)-4-(1 H-benzoimidazole-2-carbonyl)-piperidine to give the title compound.

reactant | allyl hydroxyethyl ether | OCCOCC=C | C5H10O2
reactant | 1-(t-butoxycarbonyl)-4-(1 H-benzoimidazole-2-carbonyl)-piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1)C=CC=C2 | C18H23N3O3
product | 4-(1-(2-allyloxy-ethyl)-1 H-benzoimidazole-2-carbonyl)-piperidine | C(C=C)OCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C18H23N3O2
